US07915268B2
(R)-2,2,2-trifluoro-N-(1,2,3,4-tetrahydronaphthalen-1-yl)acetamide.
A 250 ml round bottom flask was charged with 5 g (34 mmol) of (R)-1,2,3,4-tetrahydronaphthalen-1-amine (Alfa Aesar). The flask was then purged with argon. 50 ml of DCM was then added, and the solution was cooled to 0° C. 9.48 ml (68 mmol) of TEA was added by syringe, then 7.09 ml (51 mmol) of trifluoroacetic anhydride was added slowly by syringe. The solution was then stirred overnight, slowly warming to room temp. The mixture was diluted with DCM and washed with water, 1 N HCl, and brine. The organic layer was dried over MgSO4 and concentrated in vacuo, and purified by column chromatography (eluting with 1:1 DCM:Hex), to give 6.63 g (80%) of the titled compound.

reactant | (R)-1,2,3,4-tetrahydronaphthalen-1-amine | 34 mmol, 5 g | [C@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | trifluoroacetic anhydride | 51 mmol, 7.09 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-2,2,2-trifluoro-N-(1,2,3,4-tetrahydronaphthalen-1-yl)acetamide | 6.63 g, 80% | FC(C(=O)N[C@@H]1CCCC2=CC=CC=C12)(F)F | C12H12F3NO
